US06342504B1
To 2,3-dihydroxy-bromobenzene (3.0 g, 0.16 mole), KF (4.63 g, 0.080 mole), DMF (15 mL was added CH2Br2 (4.13 g, 0.024 moles). This suspension was heated to 135° C. for 3 hours, cooled and filtered. The filtrate was poured into 200 mL of ether and washed with water, 1 N KOH and brine. The organic layer was dried over magnesium sulfate, filtered and the solvent removed under vacuum, to yield 2,3-Methylenedioxy-bromobenzene (1.45 g, 45 % yield).

reactant | 2,3-dihydroxy-bromobenzene | 0.16 mole, 3.0 g | OC1=C(C=CC=C1O)Br | C6H5BrO2
reactant | KF | 0.080 mole, 4.63 g | [F-].[K+]
reactant | CH2Br2 | 0.024 moles, 4.13 g | C(Br)Br | CH2Br2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2,3-Methylenedioxy-bromobenzene | 1.45 g, 45 % yield | C1OC2=C(C=CC=C2O1)Br | C7H5BrO2
